Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3],3.85666489242
[C:5]([H:6])[H:7].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7],-2.611817377
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.6208464905899995
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],4.071118213419998
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7]=[C:8]=[C:9]([H:10])[H:11],-2.8412270794200003
[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.4241020406769999
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8],2.53813549569
[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7]>>[O:1]=[C:2]([H:3])[C:4]([C:5][O:6][H:7])=[C:8][H:9],-4.21970352617
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1],5.80617013916
[H:1].[O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.66923333072
[O:1]=[C:2]1[C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[O:1]=[C:2][C:10]([C:7]([C:6]=[C:3]([H:4])[H:5])([H:8])[H:9])([H:11])[H:12],0.80713759868
[H:1][O:2][C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2]=[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],1.8307499629
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-6.15648499
[H:1].[O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.59543598152
[H:1][C:2]([H:3])=[C:4][O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.77254484771
[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-8.63404209477
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2](#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1],2.10513907739
[H:14].[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.59339339356
[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[C:2]([H:3])[O:4][C:5]#[C:6][H:7].[O:1],7.96479529989
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8],1.00940833925
[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.89388934035
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[H:1],3.94299027138
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],6.61540786494
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]=[C:8]([H:9])[H:10].[O:4]=[C:5]([H:6])[H:7],1.35953454143
[C:9]([H:10])[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[O:8]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11],-1.62335609754
[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9],2.21840616097
[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7],6.14158780028
[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][O:2][C:3]=[C:4]([H:5])[H:6].[H:7],2.99231228573
[C:9]([H:10])([H:11])=[C:12]([H:13])[O:14][H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[O:14][H:15],1.68920274118
